US04559348
5-Methyl-7-isobutylamino-1H-pyrazolo[4,3-b]pyridine (21)
A mixture of 7-chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine (1.0 g, 0.006 mole) and isobutylamine (58 g) in water (100 ml) and ethanol (50 ml) was heated under reflux for 10 days. The reaction mixture was cooled and evaporated to dryness. The oily residue was basified to pH8-9 with 10% sodium carbonate solution. The residue was extracted with ethyl acetate (3×100 ml), dried (Na2SO4) and evaporated to dryness to give a yellow oil. This was purified by column chromatography on alumina, and eluted with chloroform/methanol to give the desired compound as a white solid (500 mg). m.p. 162°-164° C.

reactant | 7-chloro-5-methyl-1H-pyrazolo[4,3-b]pyridine | 0.006 mole, 1.0 g | ClC1=C2C(=NC(=C1)C)C=NN2 | C7H6ClN3
reactant | isobutylamine | 58 g | C(C(C)C)N | C4H11N
solvent | water | 100 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-Methyl-7-isobutylamino-1H-pyrazolo[4,3-b]pyridine | 500 mg | CC1=CC(=C2C(=N1)C=NN2)NCC(C)C | C11H16N4
